US08871756B2
2-Chloro-6-methylquinazolin-4(3H)-one
To a solution of 2,4-dichloro-6-methylquinazoline (2.13 g, 10 mmol) in tetrahydrofuran (20 mL) was added sodium hydroxide (2 N, 20 mL). After being stirred at room temperature for 4 hours, the reaction mixture was chilled and acidified to pH 5 with acetic acid. The formed solid was collected by filtration, washed with water, and dried in vacuo to afford 1.7 g of the desired product as a white solid (yield was 87.6%).

reactant | 2,4-dichloro-6-methylquinazoline | 10 mmol, 2.13 g | ClC1=NC2=CC=C(C=C2C(=N1)Cl)C | C9H6Cl2N2
reactant | sodium hydroxide | 2 N, 20 mL | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-Chloro-6-methylquinazolin-4(3H)-one | 1.7 g, yield was 87.6% | ClC1=NC2=CC=C(C=C2C(N1)=O)C | C9H7ClN2O
